US07825128B2
(RS)—S-(4-{[4-{[(R)-2-hydroxy-1-methylethyl]amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide
In the reaction of (RS)—N-(ethoxycarbonyl)-S-(4-{[4-{[(R)-2-hydroxy-1-methyl-ethyl]-amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide (94 mg, 0.2 mmol) with sodium ethylate (49 mg, 0.7 mmol) according to procedure 14, the desired product is obtained in 44% yield (35 mg) after chromatographic purification (silica gel, dichloromethane/methanol (9/1)).

reactant | (RS)—N-(ethoxycarbonyl)-S-(4-{[4-{[(R)-2-hydroxy-1-methyl-ethyl]-amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide | 0.2 mmol, 94 mg | C(C)OC(=O)N=S(=O)(C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N[C@@H](CO)C)C=1SC=CC1 | C21H25N5O4S2
reactant | sodium ethylate | 0.7 mmol, 49 mg | CC[O-].[Na+]
product | (RS)—S-(4-{[4-{[(R)-2-hydroxy-1-methylethyl]amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide | 44% yield | OC[C@@H](C)NC1=NC(=NC=C1C=1SC=CC1)NC1=CC=C(C=C1)S(=O)(=N)C | C18H21N5O2S2
